US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[d]isothiazole and N-(2-Methoxyethyl )methylamine were converted to yield {4-[3-(4-Fluoro-phenyl)-benzo[d]isothiazol-6-yloxyl]-butyl}-(2-methoxy-ethyl)-methyl-amine which was transferred into its salt by treatment with formic acid, MS: 389 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)F)C=C1 | C17H15BrFNOS
reactant | N-(2-Methoxyethyl )methylamine | COCCNC | C4H11NO
product | {4-[3-(4-Fluoro-phenyl)-benzo[d]isothiazol-6-yloxyl]-butyl}-(2-methoxy-ethyl)-methyl-amine | FC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(C)CCOC | C21H25FN2O2S
